US04758586
A solution of ethyl 5-(5-methoxyindol-2-yl)-2,4-pentadienoate (0.8 g, 2.9 mmol) in 20 ml of tetrahydrofuran (THF) was added dropwise to a suspension of sodium hydride (0.024 g of a 60% reagent) at 0° C. (ice bath). After addition, the mixture was stirred in the ice bath for 1 hour and a solution of p-chlorobenzoyl chloride (0.54 g) in 10 ml of THF was added; the resulting mixture was filtered to remove the precipitate and the filtrate was washed with brine, dried (magnesium sulfate) and concentrated on rotary evaporator to give a yellow oil. Crystallization of this oily substance from acetone-ether afforded 0.75 g of ethyl 5-(1-p-chlorobenzoyl-5-methoxyindol-2-yl)-2,4-pentadienoate as yellow powders, m.p., 121°-125° C. MS(EI): 40 g(M+), 336 (M+ --CO2Et).

reactant | ethyl 5-(5-methoxyindol-2-yl)-2,4-pentadienoate | 2.9 mmol, 0.8 g | COC=1C=C2C=C(NC2=CC1)C=CC=CC(=O)OCC | C16H17NO3
reactant | sodium hydride | [H-].[Na+]
reactant | p-chlorobenzoyl chloride | 0.54 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | THF | 10 ml | O1CCCC1 | C4H8O
product | ethyl 5-(1-p-chlorobenzoyl-5-methoxyindol-2-yl)-2,4-pentadienoate | 0.75 g | ClC1=CC=C(C(=O)N2C(=CC3=CC(=CC=C23)OC)C=CC=CC(=O)OCC)C=C1 | C23H20ClNO4
